US05376668
F. 3-(3-(3-phenylpropylthio)-1,2,5-oxadiazol-4-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(3-(3-phenylpropylthio)-1,2,5-oxadiazol-4-yl)pyridine (7 mmol) in acetone and the reaction mixture was stirred at room temperature for 20 h. and evaporated.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(3-(3-phenylpropylthio)-1,2,5-oxadiazol-4-yl)pyridine | 7 mmol | C1(=CC=CC=C1)CCCSC1=NON=C1C=1C=NC=CC1 | C16H15N3OS
solvent | acetone | CC(=O)C | C3H6O
product | 3-(3-(3-phenylpropylthio)-1,2,5-oxadiazol-4-yl)-1-methylpyridinium iodide | [I-].C1(=CC=CC=C1)CCCSC1=NON=C1C=1C=[N+](C=CC1)C | InChI=1S/C17H18N3OS.HI/c1-20-11-5-10-15(13-20)16-17(19-21-18-16)22-12-6-9-14-7-3-2-4-8-14;/h2-5,7-8,10-11,13H,6,9,12H2,1H3;1H/q+1;/p-1
